US07531532B2
After dissolving 4-chloropyridine-2-carboxylic acid methyl ester (30 g) and 2-fluoro-4-nitrophenol (41.2 g) in chlorobenzene (24 ml), the reaction mixture was stirred for 4 hours at 120° C. under a nitrogen atmosphere. The reaction mixture was brought to room temperature, methanol (100 ml) was added, and the mixture was stirred for 30 minutes. After distilling off the solvent under reduced pressure, the resultant residue was partitioned between ethyl acetate (300 ml) and 1N aqueous sodium hydroxide (150 ml). The separated organic layer was washed with 1N aqueous sodium hydroxide (100 ml) and brine (150 ml) and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then ethanol (200 ml) was added to the resultant residue and the mixture was stirred for 30 minutes. After filtering the solid, the filtrate was purified by silica gel column chromatography (YMC, SIL-60-400/230W, eluent; heptane:ethyl acetate=1:1). Fractions containing the target compound were concentrated under reduced pressure, and the obtained solid was combined with the previously obtained solid to provide 4-(2-fluoro-4-nitrophenoxy)pyridine-2-carboxylic acid methyl ester (20.0 g, 40.0%) as a pale brown solid.

reactant | 4-chloropyridine-2-carboxylic acid methyl ester | 30 g | COC(=O)C1=NC=CC(=C1)Cl | C7H6ClNO2
reactant | 2-fluoro-4-nitrophenol | 41.2 g | FC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H4FNO3
reactant | methanol | 100 ml | CO | CH4O
solvent | chlorobenzene | 24 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 4-(2-fluoro-4-nitrophenoxy)pyridine-2-carboxylic acid methyl ester | 20.0 g, 40.0% | COC(=O)C1=NC=CC(=C1)OC1=C(C=C(C=C1)[N+](=O)[O-])F | C13H9FN2O5
